US08791108B2
To a stirred yellow solution of ethyl 6-(2-ethoxy-2-oxoacetyl)-7-iodo-5-methylpyrazolo[1,5-a]pyrimidine-2-carboxylate (6.4 g, 14.84 mmol) in anhydrous toluene (300 mL) was added 1.1M (R)-1-methyl-3,3-diphenylhexahydropyrrolo[1,2-c][1,3,2]oxazaborole/toluene (5.40 mL, 5.94 mmol). The mixture was cooled to −35° C. and a solution of 50% catechoborane/toluene (5.09 mL, 20.78 mmol) was added over 10 min. After 30 min, the reaction mixture was slowly warmed to −15° C. and stirred for additional 2 h, then diluted with EtOAc (600 mL) and sat. Na2CO3 (100 mL). The mixture was stirred vigorously for 30 min, and the organic phase washed with sat Na2CO3 (2×100 mL), dried (Na2SO4), filtered, concentrated and the residue was purified by silica gel chromatography (5-100% EtOAc/hexane) to afford desired (S)-ethyl 6-(2-ethoxy-1-hydroxy-2-oxoethyl)-7-iodo-5-methylpyrazolo[1,5-a]pyrimidine-2-carboxylate (5.3 g, 12.23 mmol, 82% yield) as off-white solid. 1H NMR (500 MHz, CDCl3) δ: 7.33 (s, 1H), 5.75 (d, J=2.4 Hz, 1H), 4.52 (qd, J=7.1, 1.1 Hz, 2H), 4.38-4.29 (m, 2H), 3.59 (d, J=2.4 Hz, 1H), 2.63 (s, 3H), 1.48 (t, J=7.2 Hz, 3H), 1.27 (t, J=7.2 Hz, 3H). LCMS (M+H)=434.2.

reactant | ethyl 6-(2-ethoxy-2-oxoacetyl)-7-iodo-5-methylpyrazolo[1,5-a]pyrimidine-2-carboxylate | 14.84 mmol, 6.4 g | C(C)OC(C(=O)C=1C(=NC=2N(C1I)N=C(C2)C(=O)OCC)C)=O | C14H14IN3O5
reactant | (R)-1-methyl-3,3-diphenylhexahydropyrrolo[1,2-c][1,3,2]oxazaborole toluene | 5.94 mmol, 1.1M, 5.40 mL | CB1OC([C@@H]2N1CCC2)(C2=CC=CC=C2)C2=CC=CC=C2.C1(=CC=CC=C1)C
solvent | toluene | 300 mL | C1(=CC=CC=C1)C | C7H8
solvent | EtOAc | 600 mL | CCOC(=O)C | C4H8O2
solvent | Na2CO3 | 100 mL | C(=O)([O-])[O-].[Na+].[Na+]
solvent | toluene | 20.78 mmol, 5.09 mL | C1(=CC=CC=C1)C | C7H8
product | (S)-ethyl 6-(2-ethoxy-1-hydroxy-2-oxoethyl)-7-iodo-5-methylpyrazolo[1,5-a]pyrimidine-2-carboxylate | 12.23 mmol, 5.3 g, 82% yield | C(C)OC([C@@H](O)C=1C(=NC=2N(C1I)N=C(C2)C(=O)OCC)C)=O | C14H16IN3O5
